US07199147B2
Sodium cyanoborohydride (242 mg, 3.85 mmol) and then acetic acid (220 μl, 3.84 mmol) were added to a solution of 1-(methylsulfonyl)-1H-indazol-5-amine (163 mg, 0.772 mmol) and 8-propyl-8-azabicyclo[3.2.1]octan-3-one (150 mg, 0.924 mmol) in methanol (3 ml), and the resulting mixture was stirred at room temperature for 4 days. A 1N-aqueous sodium hydroxide solution was added thereto, followed by extraction with ethyl acetate. The extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified successively by a silica gel column chromatography (chloroform/methanol=4/1), a preparative thin-layer chromatography (200×200×0.5 mm, 2 plates, eluent: chloroform/methanol=4/1) and partition by LC/MS (water containing 0.05% trifluoroacetic acid-acetonitrile containing 0.035% trifluoroacetic acid, 10%–100% gradient, the extraction of the organic layer with aqueous ammonia/ethyl acetate after the partition) to obtain 1-(methylsulfonyl)-N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)-1H-indazol-5-amine (8 mg, 3%).

reactant | Sodium cyanoborohydride | 3.85 mmol, 242 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 3.84 mmol, 220 μl | C(C)(=O)O | C2H4O2
reactant | 1-(methylsulfonyl)-1H-indazol-5-amine | 0.772 mmol, 163 mg | CS(=O)(=O)N1N=CC2=CC(=CC=C12)N | C8H9N3O2S
reactant | 8-propyl-8-azabicyclo[3.2.1]octan-3-one | 0.924 mmol, 150 mg | C(CC)N1C2CC(CC1CC2)=O | C10H17NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 1-(methylsulfonyl)-N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)-1H-indazol-5-amine | 8 mg, 3% | CS(=O)(=O)N1N=CC2=CC(=CC=C12)NC1CC2CCC(C1)N2CCC | C18H26N4O2S
